US07470708B2
2-(4-Fluorophenylamino)but-2-enedioic acid dimethyl ester
50 ml (0.51 M) of 4-fluoroaniline (at 98%) are introduced into 500 ml of anhydrous methanol, followed by dropwise addition of 70.5 ml (0.56 M) of methyl acetylenedicarboxylate (at 98%). The reaction mixture is heated at 55° C. with stirring for 3 hours, and then evaporated under reduced pressure. The residue is purified by evolution through silica.

reactant | 4-fluoroaniline | 0.51 M, 50 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | methyl acetylenedicarboxylate | 0.56 M, 70.5 ml | C(#CC(=O)[O-])C(=O)OC
reactant | methanol | 500 ml | CO | CH4O
product | 2-(4-Fluorophenylamino)but-2-enedioic acid dimethyl ester | COC(C(=CC(=O)OC)NC1=CC=C(C=C1)F)=O | C12H12FNO4
